US05696159
To a solution of 0.358 g (1.0 mmol) of 5,6-difluoro-2-methyl-1-(p-methylthiobenzylidene)-indene-3-acetic acid in acetone (10 ml) is added 10-15 ml MeOH. With magnetic stirring 0.32 g (1.5 mmol) of sodium meta periodate is added in 5 ml of water. The proportions of acetone, methanol and water are adjusted if necessary in order to preserve homogeneity. After several minutes, a precipitation of sodium iodate appears. The suspension is stirred at room temperature for 16 h, and is then poured into approximately 50 ml of water and 100 ml methylene chloride. The two phases are separated and extracted twice with methylene chloride. The organic layer is washed with water and dried (MgSO4). The residue after evaporation is dissolved in the minimum amount of boiling ethyl acetate and is allowed to stand for 12 h in the freezer compartment. The deep orange crystals are filtered. The filtrate is reduced to 1/2 volume and allowed to stand in the cold for several hours to give a large second crop. In this way, 5,6-difluoro-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid is isolated, m.p. 200°-210° C.

reactant | 5,6-difluoro-2-methyl-1-(p-methylthiobenzylidene)-indene-3-acetic acid | 1.0 mmol, 0.358 g | FC=1C=C2C(=C(C(C2=CC1F)=CC1=CC=C(C=C1)SC)C)CC(=O)O | C20H16F2O2S
reactant | MeOH | 10-15 ml | CO | CH4O
reactant | sodium meta periodate | 1.5 mmol, 0.32 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 5,6-difluoro-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid | FC=1C=C2C(=C(C(C2=CC1F)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C20H16F2O3S
